*****************************************************
* Bandgap Reference Circuit
* LVS Schematic Netlist
* Technology : SKY130A
*****************************************************

.lib "/home/ruthwika/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

.global vdd gnd

.subckt bandgap vdd gnd vref

*****************************************************
* PMOS CURRENT MIRROR
*****************************************************

xmp1 net1 net2 vdd vdd sky130_fd_pr__pfet_01v8_lvt l=2 w=5 m=4
xmp2 net2 net2 vdd vdd sky130_fd_pr__pfet_01v8_lvt l=2 w=5 m=4
xmp3 net3 net2 vdd vdd sky130_fd_pr__pfet_01v8_lvt l=2 w=5 m=4

*****************************************************
* NMOS CURRENT MIRROR
*****************************************************

xmn1 net1 net1 q1 gnd sky130_fd_pr__nfet_01v8_lvt l=1 w=5 m=8
xmn2 net2 net1 q2 gnd sky130_fd_pr__nfet_01v8_lvt l=1 w=5 m=8

*****************************************************
* STARTUP CIRCUIT
*****************************************************

xmp4 net4 net2 vdd vdd sky130_fd_pr__pfet_01v8_lvt l=2 w=5 m=1
xmp5 net5 net2 net4 vdd sky130_fd_pr__pfet_01v8_lvt l=2 w=5 m=1
xmp6 net7 net6 net2 vdd sky130_fd_pr__pfet_01v8_lvt l=2 w=5 m=2

xmn3 net6 net6 net8 gnd sky130_fd_pr__nfet_01v8_lvt l=7 w=1 m=1
xmn4 net8 net8 gnd gnd sky130_fd_pr__nfet_01v8_lvt l=7 w=1 m=1

*****************************************************
* PNP DEVICES
*****************************************************

xqp1 gnd gnd qp1 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1
xqp2 gnd gnd qp2 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=8
xqp3 gnd gnd qp3 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1

*****************************************************
* RESISTOR ARRAY
*****************************************************

xra1 ra1 na1 vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8
xra2 na1 na2 vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8
xra3 na2 qp2 vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8
xra4 na2 qp2 vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8

xrb1  vref nb1  vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8
xrb2  nb1  nb2  vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8
xrb3  nb2  nb3  vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8
xrb4  nb3  nb4  vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8
xrb5  nb4  nb5  vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8
xrb6  nb5  nb6  vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8
xrb7  nb6  nb7  vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8
xrb8  nb7  nb8  vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8
xrb9  nb8  nb9  vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8
xrb10 nb9  nb10 vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8
xrb11 nb10 nb11 vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8
xrb12 nb11 nb12 vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8
xrb13 nb12 nb13 vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8
xrb14 nb13 nb14 vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8
xrb15 nb14 nb15 vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8
xrb16 nb15 nb16 vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8
xrb17 nb16 qp3  vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8
xrb18 nb16 qp3  vdd sky130_fd_pr__res_high_po_1p41 w=1.41 l=7.8

.ends bandgap
