**** bgr using ideal opamp (vcvs) *****

.lib "/home/ruthwika/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.global vdd gnd
.temp 27

*** vcvs definition
e1 net2 gnd ra1 qp1 gain=1000


xmp1    qp1	net2   	vdd	vdd     sky130_fd_pr__pfet_01v8_lvt     l=2     w=5     m=4
xmp2    ra1 	net2   	vdd     vdd     sky130_fd_pr__pfet_01v8_lvt     l=2     w=5     m=4
xmp3    ref	net2    vdd     vdd     sky130_fd_pr__pfet_01v8_lvt     l=2     w=5     m=4
	
*** bjt definition
xqp1	gnd	gnd	qp1		sky130_fd_pr__pnp_05v5_W3p40L3p40	m=1
xqp2    gnd     gnd     qp2          sky130_fd_pr__pnp_05v5_W3p40L3p40       m=8
xqp3    gnd     gnd     qp3          sky130_fd_pr__pnp_05v5_W3p40L3p40       m=1

*** high-poly resistance definition
xra1    ra1     na1     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	l=7.8
xra2    na1     na2     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41	l=7.8
xra3    na2     qp2     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41	l=7.8
xra4    na2     qp2     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41	l=7.8

xrb1    ref     nb1     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41	l=7.8
xrb2    nb1     nb2     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	l=7.8
xrb3    nb2     nb3     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	l=7.8
xrb4    nb3     nb4     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	l=7.8
xrb5    nb4     nb5     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	l=7.8
xrb6    nb5     nb6     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	l=7.8
xrb7    nb6     nb7     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	l=7.8
xrb8    nb7     nb8     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	l=7.8
xrb9    nb8     nb9     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	l=7.8
xrb10   nb9     nb10    vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	l=7.8
xrb11   nb10    nb11    vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	l=7.8
xrb12   nb11    nb12    vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	l=7.8
xrb13   nb12    nb13    vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	l=7.8
xrb14   nb13    nb14    vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	l=7.8
xrb15   nb14    nb15    vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	l=7.8
xrb16   nb15    nb16    vdd     sky130_fd_pr__res_high_po_1p41     w=1.41 	l=7.8
xrb17   nb16    nb17    vdd     sky130_fd_pr__res_high_po_1p41     w=1.41   	l=7.8
xrb18   nb17    nb18    vdd     sky130_fd_pr__res_high_po_1p41     w=1.41   	l=7.8
xrb19   nb18    nb19    vdd     sky130_fd_pr__res_high_po_1p41     w=1.41   	l=7.8
xrb20   nb19    nb20    vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	 l=7.8
xrb21   nb20    nb21    vdd     sky130_fd_pr__res_high_po_1p41     w=1.41   	l=7.8
xrb22   nb21    nb22    vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	 l=7.8
xrb23   nb22    qp3     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	l=7.8
xrb24   nb22    qp3     vdd     sky130_fd_pr__res_high_po_1p41     w=1.41  	l=7.8

*** voltage source for current measurement

*** supply voltage
vsup    vdd     gnd     dc      2
*.dc    vsup    0       3.3     0.3.3

.dc	temp    -40     125     5

*vsup    vdd     gnd     pulse   0       2       10n     1u      1u      1m      100u
*.tran   5n      10u

.control
RUN
plot v(vdd) v(qp1) v(ra1) v(qp2) v(ref) v(qp3)
plot v(ref)


.endc
.end

